US06846839B1
3-(2-Carboxyethyl)-4-methylpyrrole (123 g) was mixed with 1500 mL of ethyl ether and 250 mL of methanol in a magnetically stirred receiver flask. A separate 3 L, 3 neck round bottom flask was equipped with magnetic stirring, a distillation head and condenser leading to the inlet of the receiver flask, and heated in a water bath. Into the 3 L flask was placed 240 g of Diazald, dissolved in 1800 mL of ethyl ether, and a solution of 73 g of potassium hydroxide, dissolved in 360 mL of 95% ethanol and 112 mL of water. The 3 L flask was stirred and heated to 65-75° C. in a water bath, and the diazomethane-ether mixture was distilled into the stirred receiver flask over about 2.5 hrs. Ethyl ether (200 mL) was added to the 3 L flask, and the distillation continued until complete. The receiver flask was stirred for another 30 minutes, and then 10 mL of acetic acid was added. The mixture was extracted twice with 500 mL of water each time, and then twice with 200 mL of saturated sodium bicarbonate each time. The ether layer was dried over anhydrous sodium sulfate, and distilled to leave a dark fluid residue. The residue was distilled twice through a 4 inch Vigreux column and once through a 10 inch vacuum-jacketed Vigreux column to give 108 g (80.6% yield) of 3-(2-methoxycarbonylethyl)-4-methylpyrrole. BP 108-113 C at 0.5 mm.

reactant | 3-(2-Carboxyethyl)-4-methylpyrrole | 123 g | C(=O)(O)CCC1=CNC=C1C | C8H11NO2
reactant | methanol | 250 mL | CO | CH4O
reactant | Diazald | 240 g | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | potassium hydroxide | 73 g | [OH-].[K+]
solvent | ethyl ether | 1800 mL | C(C)OCC | C4H10O
solvent | ethanol | 360 mL | C(C)O | C2H6O
solvent | water | 112 mL | O | H2O
solvent | ethyl ether | 1500 mL | C(C)OCC | C4H10O
product | 3-(2-methoxycarbonylethyl)-4-methylpyrrole | 108 g, 80.6% yield | COC(=O)CCC1=CNC=C1C | C9H13NO2
